US04218464
1,2-Bis(bromomethyl)-3,4-bis(trifluoromethyl)benzene (120 g., 0.3 mol.) in 450 ml. of ethanol is refluxed and treated with a solution of the sodium salt of p-methyl-benzene sulfonamide prepared by dissolving sodium (15.2 g., 0.66 mol.) in a mixture of p-methylbenzenesulfonamide (51.2 g., 0.3 mol.) in 650 ml. of methanol. The mixture is refluxed for two hours, cooled, neutralized with acetic acid and filtered to give 4,5-bis(trifluoromethyl)-2,3-di-hydro-1H-isoindole.

reactant | 1,2-Bis(bromomethyl)-3,4-bis(trifluoromethyl)benzene | 0.3 mol, 120 g | BrCC1=C(C(=C(C=C1)C(F)(F)F)C(F)(F)F)CBr | C10H6Br2F6
reactant | ethanol | C(C)O | C2H6O
reactant | sodium | [Na] | Na
reactant | p-methyl-benzene sulfonamide | CC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO2S
reactant | sodium | 0.66 mol, 15.2 g | [Na] | Na
reactant | p-methylbenzenesulfonamide | 0.3 mol, 51.2 g | CC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 4,5-bis(trifluoromethyl)-2,3-di-hydro-1H-isoindole | FC(C1=C2CNCC2=CC=C1C(F)(F)F)(F)F | C10H7F6N
